* Use the vendor diode model for both junctions
.MODEL DI_BAV99 D ( IS=261p RS=0.140 BV=75.0 IBV=2.50u
+ CJO=1.19p M=0.333 N=1.70 TT=5.76n )

* 3-pin BAV99: A is common anode, K1/K2 are cathodes
.SUBCKT BAV99_DUAL A K1 K2
D1 A K1 DI_BAV99
D2 A K2 DI_BAV99
.ENDS BAV99_DUAL
