***********************************************************
*
* BAT54J
*
* Nexperia
*
* Single Schottky barrier diode
* IFmax = 200mA
* VRmax = 30V
* VFmax = 320mV    @ IF = 1mA
* IRmax = 2µA      @ VR = 25V
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOD323F
*
* Package Pin 1: Cathode
* Package Pin 2: Anode
*
*
* Extraction date (week/year): #
* Simulator: SPICE2
*
***********************************************************
*
* The resistor R1  
* does not reflect physical devices 
* but improve only modeling in the 
* reverse mode of operation.
*
.SUBCKT BAT54J 1 2
D1 1 2 BAT54J
R1 1 2 3.5E+07 
* 
.MODEL BAT54J D 
+ IS = 2.36E-07 
+ N = 1.009 
+ BV = 33 
+ IBV = 0.001 
+ RS = 2.633 
+ CJO = 9.53E-12 
+ VJ = 0.2034 
+ M = 0.3811 
+ FC = 0.6435 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*